US09328106B2
To a solution of ethyl 2-(5-bromo-2-fluoro-phenyl)thiazole-4-carboxylate (8.97 mmol, 2960 mg) in methanol (40 mL) and water (10 mL) was added lithium hydroxide (1.6 equiv., 14.2 mmol, 347 mg). The reaction mixture was stirred at 50° C. for 2 hours. The reaction mixture was cooled to room temperature, concentrated, suspended in water, and then quenched with 2N HCl(aq.). The solid was collected, washed with water, and dried under high vacuum to afford 2-(5-bromo-2-fluoro-phenyl)thiazole-4-carboxylic acid (2410 mg, 89% Yield) as a white solid.

reactant | ethyl 2-(5-bromo-2-fluoro-phenyl)thiazole-4-carboxylate | 8.97 mmol, 2960 mg | BrC=1C=CC(=C(C1)C=1SC=C(N1)C(=O)OCC)F | C12H9BrFNO2S
reactant | lithium hydroxide | 14.2 mmol, 347 mg, 1.6 equiv. | [OH-].[Li+]
solvent | methanol | 40 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 2-(5-bromo-2-fluoro-phenyl)thiazole-4-carboxylic acid | 2410 mg, 89% Yield | BrC=1C=CC(=C(C1)C=1SC=C(N1)C(=O)O)F | C10H5BrFNO2S
